US07799805B2
(4-Chloro-3-hydroxymethyl-benzyl)-cyclopropyl-carbamic acid tert-butyl ester
Aq. 1M NaOH (16 mL) was added to a sol. of [3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-cyclopropyl-carbamic acid tert-butyl ester (700 mg, 1.64 mmol) in MeOH (32 mL). The mixture was heated to reflux for 2 h, and was allowed to cool to rt. The solvents were partially removed under reduced pressure, and the resulting aq. layer was diluted with water (100 mL). The mixture was extracted with Et2O (3×). The combined org. layers were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 40:60) yielded the title compound (550 mg, quantitative yield). LC-MS: tR=0.98 min; ES+: 312.04.

reactant | NaOH | 1M, 16 mL | [OH-].[Na+]
reactant | [3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-cyclopropyl-carbamic acid tert-butyl ester | 1.64 mmol, 700 mg | C(C)(C)(C)OC(N(C1CC1)CC1=CC(=C(C=C1)Cl)C(O[SiH2]C(C)(C)C)(C)C)=O | C22H36ClNO3Si
solvent | MeOH | 32 mL | CO | CH4O
product | (4-Chloro-3-hydroxymethyl-benzyl)-cyclopropyl-carbamic acid tert-butyl ester | 550 mg, quantitative yield | C(C)(C)(C)OC(N(C1CC1)CC1=CC(=C(C=C1)Cl)CO)=O | C16H22ClNO3
